### PR TITLE
[Merged by Bors] - feat: port Data.Vector3

### PR DESCRIPTION
**Pull request by hargoniX**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Ruben-VandeVelde** [comment]
Ref  #633

**Comment by hargoniX** [comment]
Oh I'm sorry I didn't see the other PR, the file was still free in the graphs and lists of files that needed porting.

**Comment by ChrisHughes24** [comment]
This is ready to merge IMO except for the notation being global. I haven't quite figured out how to fix that yet.

**Comment by tb65536** [comment]
I'm on vacation so please go ahead with this PR.

File: Mathlib/Data/Vector3.lean [hunk 1]
```diff
@@ -90,127 +85,119 @@ def head (v : Vector3 α (succ n)) : α :=
...
-    ∀ {m} (v : Vector3 α m) {n} (w : Vector3 α n) (i : Fin2 n), (v +-+ w) (add i m) = w i
-  | 0, v, n, w, i => rfl
-  | succ m, v, n, w, i => v.consElim fun a t => by simp [*, add]
+theorem append_add
+    (v : Vector3 α m) (w : Vector3 α n) (i : Fin2 n) : (v +-+ w) (add i m) = w i := by
+  induction m with
+  | zero => rfl
+  | succ m ih =>
+    cases v using Vector3.consElim
+    simp[ih, add]
```
Comment (eric-wieser) [inline Mathlib/Data/Vector3.lean]: I'm surprised the original spelling didn't work here.

**Comment by eric-wieser** [comment]
bors r-

(just checking that mathport from less than 3 months ago doesn't give a better output, will put this back shortly.

File: Mathlib/Data/Vector3.lean [hunk 2]
```diff
@@ -0,0 +1,330 @@
...
+@[app_unexpander Vector3.nil] def unexpandNil : Lean.PrettyPrinter.Unexpander
+  | `($(_)) => `([])
+
+-- this is copied from `src/Init/NotationExtra.lean`
+@[app_unexpander Vector3.cons] def unexpandCons : Lean.PrettyPrinter.Unexpander
+  | `($(_) $x [])      => `([$x])
+  | `($(_) $x [$xs,*]) => `([$x, $xs,*])
+  | _                  => throw ()
+
+end
```
[the remark this answers is not in the document]
Comment (digama0) [reply Mathlib/Data/Vector3.lean:97]: That macro in `Init.Notation` is actually the source of a lot of problems and I wouldn't recommend copying it. I don't think we'll be using this for long vectors anyway so I would just do the simple thing. The reason why the `notation3` doesn't work is because it creates an overloading `syntax`, which is presumably why the replacement is using `macro_rules` instead of `macro`. We can do something a lot simpler as the `macro_rules` analogue of `notation3`:

```lean
scoped macro_rules | `([$l,*]) => `(expand_foldr% (h t => cons h t) nil [$(.ofElems l),*])
```
This replaces the two macro_rules, but not the unexpanders.

File: Mathlib/Data/Vector3.lean [hunk 3]
```diff
@@ -0,0 +1,330 @@
...
+instead of a `List`.
+
+The `::` notation is also overloaded by this file to mean `Vector3.cons`.
+-/
+
+open Fin2 Nat
+
+universe u
+
+variable {α : Type _} {m n : ℕ}
```
Comment (vihdzp) [inline Mathlib/Data/Vector3.lean:28]:
```suggestion
variable {α : Type u} {m n : ℕ}
```

**Comment by semorrison** [comment]
🤷‍♀️ Shall we merge? I'm not even clear we want this.

**Comment by Parcly-Taxel** [comment]
> Shall we merge? I'm not even clear we want this.

Go ahead, merge this.

**Comment by semorrison** [comment]
bors merge
